US07893267B2
To a solution of 30 mg (0.07 mmol) of above 2-[(6-Phenylethynyl-pyridine-2-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid in DMF (1 mL) was added 40 mg (0.1 mmol) of HBTU and DIEA (0.1 mL), the resulting mixture was stirred at room temperature for 10 min, then 40 mg (0.1 mmol) of 4-methanesulfonyl-benzylamine HCl salt was added. After usual work up as described in general procedure A, 21 mg (48%) of 2-[(6-phenylethynyl-pyridine-2-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid 4-methanesulfonyl-benzylamide was obtained after column chromatography purification eluting with DCM/EtOAc (v/v from 5:1 to 1:1). LCMS: 550 (M+1)+.

reactant | 2-[(6-Phenylethynyl-pyridine-2-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid | 0.07 mmol, 30 mg | C1(=CC=CC=C1)C#CC1=CC=CC(=N1)C(=O)NC1=NC2=C(N1)C=CC=C2C(=O)O | C22H14N4O3
reactant | HBTU | 0.1 mmol, 40 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methanesulfonyl-benzylamine HCl salt | 0.1 mmol, 40 mg | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-[(6-phenylethynyl-pyridine-2-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid 4-methanesulfonyl-benzylamide | 21 mg, 48% | CS(=O)(=O)C1=CC=C(CNC(=O)C2=CC=CC=3NC(=NC32)NC(=O)C3=NC(=CC=C3)C#CC3=CC=CC=C3)C=C1 | C30H23N5O4S
